US07696216B2
B. Synthesis of (4-isopropyl-phenyl)-{5-prop-2-ynyloxy-2-[(1H-tetrazol-5-ylmethyl)-amino]-phenyl}-methanone
A solution of 0.82 g (2.47 mmol) [2-(4-isopropyl-benzoyl)-4-prop-2-ynyloxy-phenyl-amino]-acetonitrile and 0.8 ml (3.31 mmol) Bu3SnN3 in 20 ml m-xylene is stirred at reflux temperature for 5 h. Then the reaction mixture is cooled to room temperature and 15 ml 2N KOH and 2 ml MeOH are added. This mixture is stirred vigorously for 15 min. After that the phases are separated and to the water layer 4 N HCl is added until a pH ˜1 is reached. The aqueous layer is extracted with dichloromethane/isopropanol=3:1. The combined organic layers are washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo. The resulting solid is suspended in diethyl ether, stirred for 0.5 h, filtered and dried to afford 0.89 g of the title compound as yellow crystals.

reactant | [2-(4-isopropyl-benzoyl)-4-prop-2-ynyloxy-phenyl-amino]-acetonitrile | 2.47 mmol, 0.82 g | C(C)(C)C1=CC=C(C(=O)C2=C(C=CC(=C2)OCC#C)NCC#N)C=C1 | C21H20N2O2
reactant | Bu3SnN3 | 3.31 mmol, 0.8 ml | [Sn](CCCC)(CCCC)(CCCC)N=[N+]=[N-]
reactant | KOH | 2N, 15 ml | [OH-].[K+]
reactant | MeOH | 2 ml | CO | CH4O
solvent | m-xylene | 20 ml | C1(=CC(=CC=C1)C)C | C8H10
product | (4-isopropyl-phenyl)-{5-prop-2-ynyloxy-2-[(1H-tetrazol-5-ylmethyl)-amino]-phenyl}-methanone | 0.89 g | C(C)(C)C1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OCC#C)NCC1=NN=NN1 | C21H21N5O2
